US04837225
N-(2-(2,5-Dimethyl-1-pyrrolyl)ethyl)-(N,N-dimethylamino)acetamide
5.2 g (0.05 mol) of N,N-dimethylaminoacetic acid and 8.1 g (0.05 mol) of carbonyldiimidazole in 20 ml of ethylene glycol dimethyl ether are stirred at 70° C. for 15 min. After addition of 5.5 g (0.04 mol) of 1-(2-aminoethyl)-2,5-dimethylpyrrole, dissolved in 20 ml of ethylene glycol dimethyl ether, to the mixture it is stirred at room temperature for 5 h, then concentrated, water is added, and the mixture is extracted first when acid and then when alkaline. The product contained in the extract from the mixture which has been made alkaline is crystallized using ligroin. Yield: 4.3 g (39% of theory), Melting point: 63°-65° C. Elemental analysis: C12H21N3O (223.32) calculated: C 64.5 H 9.5 N 18.8 O 7.2 found: C 64.0 H 9.4 N 18.5 O 8.0

reactant | N,N-dimethylaminoacetic acid | 0.05 mol, 5.2 g | CN(C)CC(=O)O | C4H9NO2
reactant | carbonyldiimidazole | 0.05 mol, 8.1 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 1-(2-aminoethyl)-2,5-dimethylpyrrole | 0.04 mol, 5.5 g | NCCN1C(=CC=C1C)C | C8H14N2
solvent | ethylene glycol dimethyl ether | 20 ml | COCCOC | C4H10O2
solvent | ethylene glycol dimethyl ether | 20 ml | COCCOC | C4H10O2
product | N-(2-(2,5-Dimethyl-1-pyrrolyl)ethyl)-(N,N-dimethylamino)acetamide | CC=1N(C(=CC1)C)CCNC(CN(C)C)=O | C12H21N3O
